US09353090B2
Preparation of intermediate 2-(2-Chloro-pyrimidin-4-yl)-6-methyl-phenol (B-16)
To a solution of 3.0 g (20 mmol) of 2,4-dichloro-pyrimidine in a 10:1 mixture of dioxane:water (220 mL) is added 3.3 g (22 mmol) of 2-hydroxy-3-methyl-phenyl boronic acid followed by 6.0 g (57 mmol) of sodium carbonate. Argon is bubbled through the solution for 15 min then 2.4 g (2.1 mmol) of tetrakis(triphenylphosphine)palladium (0) is added. The reaction is heated overnight at 100° C. then cooled to ambient temperature and filtered through diatomaceous earth. The filter pad is washed with EtOAc then placed on a new receiving flask and washed with a 1:1 mixture of MeOH:DCM. The filtrate is concentrated under reduced pressure to B-16 (1.60 g, 36.0%)

reactant | 2,4-dichloro-pyrimidine | 20 mmol, 3.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | 2-hydroxy-3-methyl-phenyl boronic acid | 22 mmol, 3.3 g | OC1=C(C=CC=C1C)B(O)O | C7H9BO3
reactant | sodium carbonate | 57 mmol, 6.0 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 2.1 mmol, 2.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 220 mL | O | H2O
product | 2-(2-Chloro-pyrimidin-4-yl)-6-methyl-phenol | ClC1=NC=CC(=N1)C1=C(C(=CC=C1)C)O | C11H9ClN2O
